US07199239B2
[2-Methyl-4-({pentyl[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}sulfonyl)phenoxy]acetic acid
To a solution of ethyl [2-methyl-4-({pentyl[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}sulfonyl)phenoxy]acetate (76 mg, 0.13 mmol) in MeOH (2 mL) and THF (2 mL) at room temperature was added 2M NaOH aq. (1 mL, 2 mmol). The resultant mixture was stirred for 1 h. The solvents were removed in vacuo and the residue was partitioned between CH2Cl2 (2×15 mL) and 2M HCl (10 mL). The organic solution was passed through a hydrophobic frit and the solvent was removed in vacuo affording the title compound as a white solid (75 mg).

reactant | ethyl [2-methyl-4-({pentyl[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}sulfonyl)phenoxy]acetate | 0.13 mmol, 76 mg | CC1=C(OCC(=O)OCC)C=CC(=C1)S(=O)(=O)N(C=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)CCCCC | C29H32F3NO5S
reactant | NaOH | 2 mmol, 2M, 1 mL | [OH-].[Na+]
solvent | MeOH | 2 mL | CO | CH4O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | [2-Methyl-4-({pentyl[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}sulfonyl)phenoxy]acetic acid | 75 mg | CC1=C(OCC(=O)O)C=CC(=C1)S(=O)(=O)N(C=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)CCCCC | C27H28F3NO5S
